US06492425B1
a) 5-Iodosalicylic Acidchloride
5-Iodosalicylic acid (2.0 g, 7.58 mmol) in toluene was treated with SOCl2 (1.66 mL, 22.7 mmol) and catalytic DMF at reflux for 1 h. The reaction mixture was evaporated to dryness and the acid chloride used in the next step without purification.

reactant | 5-Iodosalicylic acid | 7.58 mmol, 2.0 g | IC1=CC=C(C(C(=O)O)=C1)O | C7H5IO3
reactant | SOCl2 | 22.7 mmol, 1.66 mL | O=S(Cl)Cl | Cl2OS
reactant | DMF | CN(C)C=O | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-Iodosalicylic Acidchloride | IC1=CC=C(C(C(=O)Cl)=C1)O | C7H4ClIO2
